US04451462
A solution of 2.5 g (10 mmoles) of 5-chloro-6-(piperidin-1-yl)-benzofuran-2(3H)-one and 2.1 g (15 mmoles) of methyl iodide in 15 ml of absolute 1,2-dimethoxyethane is added dropwise in the course of 20 minutes to a suspension, boiling under nitrogen, of 530 mg (11 mmoles) of 50% strength sodium hydride-oil dispersion in 15 ml of absolute 1,2-dimethoxyethane. The mixture is then boiled under reflux for a further 3 hours, the solvent is removed in vacuo and the residue is cautiously acidified with dilute hydrochloric acid and extracted three times with methylene chloride. The organic phases are washed with water, combined, dried over sodium sulphate and concentrated in a vacuum rotary evaporator. Recrystallisation from ether/petroleum ether yields 5-chloro-3-methyl-6-(piperidin-1-yl)-benzofuran-2(3H)-one having a melting point of 112°-113°.

reactant | 5-chloro-6-(piperidin-1-yl)-benzofuran-2(3H)-one | 10 mmoles, 2.5 g | ClC=1C(=CC2=C(CC(O2)=O)C1)N1CCCCC1 | C13H14ClNO2
reactant | methyl iodide | 15 mmoles, 2.1 g | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
product | 5-chloro-3-methyl-6-(piperidin-1-yl)-benzofuran-2(3H)-one | ClC=1C(=CC2=C(C(C(O2)=O)C)C1)N1CCCCC1 | C14H16ClNO2
